US07635700B2
To a stirred suspension of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.51 g, 1.5 mmol) and triethylamine (0.30 mL, 2.1 mmol) in THF (15 mL) at 5˜10° C., was added 3-chloro-4-methyl phenyl isocyanate (0.27 mL, 1.9 mmol). Then the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (˜1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 1-(3-chloro-4-methyl-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea as an off-white solid (520 mg, 73% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.58 min (99.1%); mp, 250-252° C.; 1HNMR (DMSO-d6) 2.17-2.22 (m, 4H, CHH, ArCH3), 2.59-2.93 (m, 6H, CHCH2, CH3), 4.71 (d, J=6 Hz, 2H, CH2NH), 5.27 (dd, J=6, 11 Hz, 11H, CH), 6.64 (t, J=6 Hz, 1H, CH2NH), 7.06-7.78 (m, 6H, Ar), 8.88 (s, 1H, NH), 11.04 (s, 1H, NH); 13C NMR (DMSO-d6) δ 18.69, 20.70, 23.31, 30.62, 42.31, 56.52, 116.24, 117.46, 117.81, 125.78, 126.28, 127.24, 130.98, 132.96, 133.99, 139.66, 141.30, 148.49, 154.76, 154.88, 161.02, 169.49, 172.65. LCMS MH=468, 470; Anal Calcd For C23H22N5O4Cl+0.2H2O: C, 58.59; H, 4.79; N, 14.85; Cl, 7.52. Found: C, 58.42; H, 4.55; N, 14.57; Cl, 7.83.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.51 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 2.1 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-methyl phenyl isocyanate | 1.9 mmol, 0.27 mL | ClC=1C=C(C=CC1C)N=C=O | C8H6ClNO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-(3-chloro-4-methyl-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea | 520 mg, 73% yield | ClC=1C=C(C=CC1C)NC(=O)NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C23H22ClN5O4
